US06610694B1
Production of 6-[3-[4-(Diphenylmethoxy)piperidino]propylamino]-2-(pivaloyloxymethyl)[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one
0.560 g of 6-[3-[4-(diphenylmethoxy)piperidino]propylamino][1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one was suspended in 3 ml of N,N-dimethylformamide; 0.210 g of potassium carbonate and 0.220 ml of chloromethyl pivalate were added, followed by stirring at room temperature for 15 hours. After ice water was added, the reaction mixture was extracted with ethyl acetate; the extract was washed with saline and dried over magnesium sulfate. After concentration under reduced pressure, the residue was subjected to silica gel column chromatography and eluted with ethyl acetate-methanol-triethylamine (185:15:2). The desired fraction was collected and concentrated; the crystal obtained was filtered, washed with diethyl ether, and dried, to yield 0.39 g of the title compound.

reactant | 6-[3-[4-(diphenylmethoxy)piperidino]propylamino][1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one | 0.560 g | C1(=CC=CC=C1)C(OC1CCN(CC1)CCCNC=1C=CC=2N(N1)C(NN2)=O)C2=CC=CC=C2 | C26H30N6O2
reactant | potassium carbonate | 0.210 g | C([O-])([O-])=O.[K+].[K+]
reactant | chloromethyl pivalate | 0.220 ml | C(C(C)(C)C)(=O)OCCl | C6H11ClO2
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 6-[3-[4-(Diphenylmethoxy)piperidino]propylamino]-2-(pivaloyloxymethyl)[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one | 0.39 g | C1(=CC=CC=C1)C(OC1CCN(CC1)CCCNC=1C=CC=2N(N1)C(N(N2)COC(C(C)(C)C)=O)=O)C2=CC=CC=C2 | C32H40N6O4
